US09056859B2
A solution of 5-hydroxy-3,4-dihydronaphthalen-1(2H)-one (5 g, 30.8 mmol) in 30 mL of dry pyridine was cooled to −5° C. and Tf2O (10.4 g, 36.96 mmol) was added dropwise. The reaction was warmed to ambient temperaure slowly and stirred over night. Pyridine was distilled off under reduce pressure, and the residue was purified with silica gel cloumn chromatography to give 5-oxo-5,6,7,8-tetrahydronaphthalen-1-yl trifluoromethanesulfonate.

reactant | 5-hydroxy-3,4-dihydronaphthalen-1(2H)-one | 30.8 mmol, 5 g | OC1=C2CCCC(C2=CC=C1)=O | C10H10O2
reactant | Tf2O | 36.96 mmol, 10.4 g | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 5-oxo-5,6,7,8-tetrahydronaphthalen-1-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC=CC=2C(CCCC12)=O)(F)F | C11H9F3O4S
